US04388319
(i) A solution of 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole (23.4 g.) in ethanol was added slowly to a solution of dimethylcyanodithioimidocarbonate (20.0 g.) in ethanol, with stirring at room temperature. The mixture was set aside overnight at room temperature. Filtration afforded N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-S-methylisothiourea (10.0 g.) m.p. 148°-150°. The filtrate was concentrated under reduced pressure and the mixture was triturated with cold water and the solid obtained, filtered off and recrystallised twice from isopropyl alcohol/ether to yield further product (27 g.), m.p. 148°-150°.

reactant | 4-methyl-5-((2-aminoethyl)thiomethyl)imidazole | 23.4 g | CC=1N=CNC1CSCCN | C7H13N3S
reactant | dimethylcyanodithioimidocarbonate | 20.0 g | CSC(SC)=NC#N | C4H6N2S2
solvent | ethanol | C(C)O | C2H6O
product | N-cyano-N'-[2-((4-methyl-5-imidazolyl)methylthio)ethyl]-S-methylisothiourea | 10.0 g | C(#N)NC(SC)=NCCSCC1=C(N=CN1)C | C10H15N5S2
